US07745641B2
In a similar manner to Step 2 of Example 16, 3-methoxymethoxy-4-methyl-N-(1-methyl-1-phenylethyl)benzamide (3.40 g, 10.9 mmol) was dissolved in THF (130 mL), and the solution was treated with TMEDA (5.20 mL, 34.5 mmol), sec-butyl lithium-hexane solution (0.95 mol/L, 36.5 mL, 34.7 mmol) and DMF (1.85 mL, 23.9 mmol), followed by purification by flash column chromatography (hexane/ethyl acetate=4/1 to 7/3 to 6/4). The obtained solid was purified by slurry using isopropylether and hexane to obtain 4-methoxymethoxy-5-methyl-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone (2.96 g, yield 80%).

reactant | 3-methoxymethoxy-4-methyl-N-(1-methyl-1-phenylethyl)benzamide | 10.9 mmol, 3.40 g | COCOC=1C=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=CC1C | C19H23NO3
reactant | TMEDA | 34.5 mmol, 5.20 mL | CN(C)CCN(C)C | C6H16N2
reactant | DMF | 23.9 mmol, 1.85 mL | CN(C)C=O | C3H7NO
solvent | THF | 130 mL | C1CCOC1 | C4H8O
product | 4-methoxymethoxy-5-methyl-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone | 2.96 g, yield 80% | COCOC1=C2C(N(C(C2=CC=C1C)=O)C(C)(C1=CC=CC=C1)C)O | C20H23NO4
